US04596870
(a) Synthesis of intermediate 1-(4-chlorophenylthio)methoxy-3-trifluoromethylbenzene
The synthesis was effected by reaction of 1-bromomethylthio-4-chlorobenzene and 3-trifluoromethylphenol in the same manner as described in preparation 3(b); yield 71%, b.p. 118°-122° C./0,01 mmHg. 1H NMR (CDC13); δ 5.13 (CH2), 7.1-7.5 (2×Ph), MS [70 eV 70, m/z (% rel. int)]: 318. (2,M), 159 (37), 157 (100), 145 (21) 121 (7), 108 (8), 75 (14)

reactant | 1-bromomethylthio-4-chlorobenzene | BrCSC1=CC=C(C=C1)Cl | C7H6BrClS
reactant | 3-trifluoromethylphenol | FC(C=1C=C(C=CC1)O)(F)F | C7H5F3O
product | 1-(4-chlorophenylthio)methoxy-3-trifluoromethylbenzene | yield 71% | ClC1=CC=C(C=C1)SCOC1=CC(=CC=C1)C(F)(F)F | C14H10ClF3OS
